US06949543B2
A mixture of 6-aminoquinoline, di-tert-butyl dicarbonate and DMAP was stirred under heating. 1,4-Dioxane and 1 M sodium hydroxide aqueous solution were added the reaction mixture and stirred. Ethyl acetate was added to the reaction solution, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, 6-(tert-butyloxycarbonyl)aminoquinoline was obtained. This was dissolved in ethanol, mixed with 20% palladium hydroxide-carbon and stirred in an atmosphere of hydrogen. After filtering the reaction solution, the solvent was evaporated under a reduced pressure to obtain a tetrahydroquinoline compound. This was dissolved in 1,4-dioxane, mixed with 9H-fluorenyl-9-ylmethyl chloroformate and 10% sodium bicarbonate aqueous solution and then stirred. By adding ethyl acetate and water to the reaction solution, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. The residue was dissolved in chloroform, mixed with trifluoroacetic acid and stirred. The solvent was evaporated under a reduced pressure, the residue was mixed with ethyl acetate, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, 9H-fluorenyl-9-ylmethyl 6-amino-1,2,3,4-tetrahydroquinoline-1-carboxylate was obtained. This was dissolved in acetonitrile, mixed with potassium carbonate and benzoyl bromoacetate and then stirred under heating. The reaction mixture was filtered, and the solvent was evaporated under a reduced pressure. The thus obtained crude product was purified by SCG. This was dissolved in pyridine, mixed with dichloromethane and 4-fluorobenzoyl chloride and then stirred. After adding ethyl acetate and water to the reaction mixture, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, ethyl {[1-(9H-fluorenyl-9-ylmethyloxycarbonyl)-1,2,3,4-tetrahydroquinolin-6-yl](4-fluorobebzoyl)amino}acetate (pale yellow foam) was obtained.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,4-Dioxane | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(tert-butyloxycarbonyl)aminoquinoline | C(C)(C)(C)OC(=O)NC=1C=C2C=CC=NC2=CC1 | C14H16N2O2
